US04978660
Ethyl 2 (4-chlorophenoxy)acetoacetate (90.3 g, 0.353 mol) was added dropwise to sulfuric acid (240 ml) stirred at 0° C. The resulting suspension was stirred at 0° C. for 3.5 hours, poured onto crushed ice and the mixture stirred for 0.5 hours. The mixture was extracted with toluene and the organic phase was washed with 5% sodium bicarbonate and water. The organic phase was dried with magnesium sulfate, filtered and concentrated. The crude product was recrystallized from cyclohexane to give 54.5 g (65%) of ethyl 5-chloro-3-methyl-2-benzofuran carboxylate: mp 80°-82° C.

reactant | Ethyl 2 (4-chlorophenoxy)acetoacetate | 0.353 mol, 90.3 g | ClC1=CC=C(OC(C(=O)OCC)C(=O)C)C=C1 | C12H13ClO4
solvent | sulfuric acid | 240 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 5-chloro-3-methyl-2-benzofuran carboxylate | 54.5 g, 65% | ClC=1C=CC2=C(C(=C(O2)C(=O)OCC)C)C1 | C12H11ClO3
